US08426437B2
4-Oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-cyclopentyl carboxylate was prepared according to method of esterification C from 194 mg (0.85 mmol) of 4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid, 1.29 mL (12.75 mmol) of triethylamine and 1.99 g (8.5 mmol) of dicyclopentylsulfate to give, after precipitation in water, 250 mg (98%) of 4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-cyclopentyl carboxylate in the form of a beige solid.

reactant | 4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.85 mmol, 194 mg | O=C1NC=2C=CC=CC2C2=C1NC=C2C(=O)O | C12H8N2O3
reactant | triethylamine | 12.75 mmol, 1.29 mL | C(C)N(CC)CC | C6H15N
reactant | dicyclopentylsulfate | 8.5 mmol, 1.99 g | C1(CCCC1)OS(=O)(=O)OC1CCCC1 | C10H18O4S
product | 4-Oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-cyclopentyl carboxylate | O=C1NC=2C=CC=CC2C2=C1NC=C2.C1(CCCC1)C(=O)[O-] | InChI=1S/C11H8N2O.C6H10O2/c14-11-10-8(5-6-12-10)7-3-1-2-4-9(7)13-11;7-6(8)5-3-1-2-4-5/h1-6,12H,(H,13,14);5H,1-4H2,(H,7,8)/p-1
